US07071201B2
(60-1) 3-[2-(3-Fluorophenyl)vinyl]indole
Under ice cooling, 4-fluorobenzenesulfonyl chloride (1.4 g) was added dropwise into a solution (10 ml) of 1-acetyl-6-aminoindoline (1.0 g) in pyridine followed by stirring the resultant mixture for 30 min. After concentrating it under reduced pressure, 5 N hydrochloric acid was added thereto and the resultant mixture was heated under reflux for 5 hr. Then the reaction solution was basified with a conc. aqueous solution of sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and purified by NH-silica gel column chromatography (methylene chloride/ethanol system) to give the title compound (1.36 g) as white powdery crystals (yield: 82%).

reactant | 4-fluorobenzenesulfonyl chloride | 1.4 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | 1-acetyl-6-aminoindoline | 10 ml, 1.0 g | C(C)(=O)N1CCC2=CC=C(C=C12)N | C10H12N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-[2-(3-Fluorophenyl)vinyl]indole | 1.36 g, yield: 82% | FC=1C=C(C=CC1)C=CC1=CNC2=CC=CC=C12 | C16H12FN
